US05650422
2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-5,6-dimethoxy-saccharin (0.48 g) was added with stirring at 0° C. to a solution of aluminum chloride (0.4 g) and ethanethiol (0.15 mL) in chloroform (3 mL). The temperature was allowed to rise to and remain at room temperature for 18 hours. The reaction mixture was passed through silica gel with ethyl acetate-hexane (2:3) as eluant affording as a colorless oil 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-5-hydroxy-6-methoxy-saccharin, 0.3 g, 77% yield, whose structure was proven by proton and carbon-13 magnetic resonance, mass spectrometric and nuclear Overhauser enhancement analyses. The latter analysis showed 19% enhancement of the methoxy protons signal and 10% enhancement of the C-7 proton signal.

reactant | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-5,6-dimethoxy-saccharin | 0.48 g | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)C(C)C)OC)OC | C20H21N5O5S2
reactant | aluminum chloride | 0.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 0.15 mL | C(C)S | C2H6S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-5-hydroxy-6-methoxy-saccharin | 77% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)C(C)C)O)OC | C19H19N5O5S2
